Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Amoxicillin / Iodine-Iodine Containing
 
Attending: ___.
 
Chief Complaint:
Facial pain and swelling

 
Major Surgical or Invasive Procedure:
Debridement by oral maxillofacial surgery of dental/facial 
infection.

 
History of Present Illness:
___ with RA on ___ presents with R facial swelling x 2 days.
She was supposed have her tooth extracted last month but her
mother suffered a heart attack and thus she was not able to. She
then went to the dentist on ___ who said that her jaw was
too swollen and he could not do the tooth extraction. He gave 
her
abx and asked her to return on ___. It was still too
swollen so she was given more abx and asked to see an ___
surgeon.  She was supposed to see the surgeon on ___ but
the swelling had worsenend and was more painful on ___ so
she went to ___. At ___, she had a CT scan 
showing
facial cellulitis with mult periapical lucincies. given iv 
clinda
and transferred to ___ ER for dental eval.
In ER: (Triage Vitals:6 |99.0 |77 |109/80 |18 |94% 2L NC ) 
Meds Given: 
fentanyl/oxycodone-acetaminophen/clindamycin/clonapezam/
Zofran/Seroquel 200 mg 
She seen by ___ who tried to drain the site without fluid
obtained but a wick was placed and the site was aggressively
debrided. She was admitted for observation with IVF but after 24
hours she was not improved and thus was admitted to medicine. 

Fluids given: Radiology Studies:, consults called.

Upon arrival to the floor pain with swallowing, and sore at site
of the procedure. + nausea. No dysuria, emesis, diarrhea, chest
pain or shortness of breath. But when she lays flat she feels as
though her airway is closing slightly. No stridor. All other ROS
negative except as above. 

 
Past Medical History:
Rheumatoid Arthritis
Psoriatic Arthritis
Lupus
 
Social History:
___
Family History:
Her father passed away from DM, kidney failure and macular 
degeneration. 
 
Physical Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
24 HR Data (last updated ___ @ 1615)
Temp: 99.0 (Tm 99.4), BP: 111/70 (108-111/68-72), HR: 60 
(60-73),
RR: 18, O2 sat: 95%, O2 delivery: RA   
GENERAL: Woman with swollen right jaw lying in hospital bed, in
no apparent distress, boyfriend at side with ___ coffees. 
EYES: 
HEENT: PERRL, eyes anicteric. Swollen right jaw, particularly 
the
lateral side. Oropharynx without visible lesion, erythema or
exudate
CV: Heart regular, no murmur, no S3, no S4. No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present. 
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: Erythematous inflamed right jaw as mentioned above
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Pleasant, appropriate affect

 
Pertinent Results:
LABS
___
WBC 6.0, Hgb 10.8 (MCV 94), Plt 200s
Cr 0.7, BUN 8
Na 142, K 5.4

MICRO

___ 9:15 am Blood Culture: NGTD

IMAGING

CXR:
IMPRESSION: 
1. Minimal bibasilar atelectasis without focal consolidation. 
2. Mild blunting of the left costophrenic angle is likely due to
scarring, 
although trace pleural effusion is possible. 

CT SCAN at Sturdy Memoria
Soft tissue swelling and edema to the R mandible without
collection to suggest abscess. Reactive R cervical lymph nodes
with peripaical lucencies involving the R mandibular teeth. 
There
is no parapharyngeal fluid collection.  
 
Brief Hospital Course:
___ with RA presents with right facial swelling x 2 days 
consistent with dental infection c/b cellulitis now s/p 
debridement by ___ and admitted to medicine for continued 
inpatient management.

Due to poor pain control and oral intake, she stayed overnight 
and by the morning she was doing much better, smiling and eating 
adequately. Oral maxillofacial surgery will set up a clinic 
visit in the next couple weeks. She will complete 7 days of 
clindamycin 300mg x4/day, and peridex oral rinses twice per day 
for two weeks. She was also given several days of oxycodone 5mg 
for severe pain as needed and instructed to take standing 
Tylenol for a week and take Naproxen 500mg for moderate pain. 
And she was instructed to set up a primary care visit within 
about 1 week of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 2 mg PO BID 
2. Otezla (apremilast) 30 mg oral DAILY 
3. QUEtiapine Fumarate 100-200 mg PO BID PRN Insomnia 
4. ValACYclovir 1000 mg PO Q24H 
5. ARIPiprazole 5 mg PO DAILY 
6. Sertraline 200 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Clindamycin 300 mg PO Q6H 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth every 6 hours 
Disp #*20 Capsule Refills:*0 
3.  Naproxen 500 mg PO Q8H:PRN Pain - Moderate  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 to 6 hours 
Disp #*30 Tablet Refills:*0 
5.  Peridex (chlorhexidine gluconate) 0.12 % mucous membrane BID 
dental infection Duration: 14 Days 
RX *chlorhexidine gluconate 0.12 % Swish for 30 seconds with 15 
mL (one capful) of undiluted oral rinse then expectorate twice 
daily (morning and evening). Refills:*1 
6.  ARIPiprazole 5 mg PO DAILY  
7.  ClonazePAM 2 mg PO BID  
8.  Otezla (apremilast) 30 mg oral DAILY  
9.  QUEtiapine Fumarate 100-200 mg PO BID PRN Insomnia  
10.  Sertraline 200 mg PO DAILY  
11.  ValACYclovir 1000 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Dental infection
Facial cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for care of a dental infection that has 
extended into your cheek/jaw. You got an initial debridement of 
the infected area by oral maxillofacial surgery and started on 
antibiotics and antiseptic mouth wash.

Continue the antibiotics for several more days and the twice 
daily mouth washes for two weeks. We are also providing a 
prescription for pain medication. Oral maxillofacial surgery 
will contact you about setting up a follow up appointment with 
them in clinic. Please also set up a primary care appointment 
follow up for in the next week. 

For pain we recommend:
- 1,000mg of Tylenol with breakfast, lunch, dinner all week
- For moderate pain: Naproxen 500mg (with food) every 8 hours as 
needed
- For severe pain: 5 to 10mg oxycodone every ___ hours as needed

If you start having worsening pain, swelling, redness, drainage, 
difficulty swallowing, fevers/chills, changes of vision, 
headaches, please come to the emergency room for evaluation. 

Sincerely,
Your ___ Team
 
Followup Instructions:
___